US09428465B2
Step 3. Preparation of 5-[[tert-butyl(dimethyl)silyl]oxymethyl]-N-hexyl-3-methyl-2,4-dioxo-pyrimidine-1-carboxamide
The title compound was obtained according to the procedure described for the synthesis of Example 16 (Step 1), starting from 5-[[tert-butyl(dimethyl)silyl]oxymethyl]-N-hexyl-2,4-dioxo-pyrimidine-1-carboxamide (0.14 g, 0.37 mmol); iodomethane was used herein and the reaction was stirred under nitrogen at room temperature for 45 minutes. The crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 90:10) to afford the title compound (0.055 g, 37%) as a clear, colorless oil. 1H NMR (400 MHz, CDCl3): δ 0.12 (s, 6H), 0.90 (t, J=6.6 Hz, 3H), 0.95 (s, 9H), 1.29-1.41 (m, 6H), 1.57-1.65 (m, 2H), 3.36 (s, 3H), 3.40 (td, J=7.1, 5.7 Hz, 2H), 4.53 (d, J=1.7 Hz, 2H), 8.47 (t, J=1.6 Hz, 1H), 9.32 (t, J=4.5 Hz, 1H). MS (ESI) m/z: 398 [M-H]+.

reactant | 5-[[tert-butyl(dimethyl)silyl]oxymethyl]-N-hexyl-2,4-dioxo-pyrimidine-1-carboxamide | 0.37 mmol, 0.14 g | [Si](C)(C)(C(C)(C)C)OCC=1C(NC(N(C1)C(=O)NCCCCCC)=O)=O | C18H33N3O4Si
reactant | iodomethane | IC | CH3I
product | 5-[[tert-butyl(dimethyl)silyl]oxymethyl]-N-hexyl-3-methyl-2,4-dioxo-pyrimidine-1-carboxamide | 0.055 g, 37% | [Si](C)(C)(C(C)(C)C)OCC=1C(N(C(N(C1)C(=O)NCCCCCC)=O)C)=O | C19H35N3O4Si
